Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB, dizziness
 
Major Surgical or Invasive Procedure:
Dual ___ Placement 
 
History of Present Illness:
___ PMH HTN, HL, osteoporosis presenting with several days of 
chest pain, shortness of breath, lightheadedness. She has very 
limited exercise tolerance secondary to severe osteoarthritis. 
However, over the past week she was noticed decreased ability to 
ambulate and walk up stairs. Feels short of breath with 5 
stairs, associated with some chest pressure. Symptoms improve 
after 5 minutes of rest. Pt went to PCP today and given ROS, 
obtained EKG. EKG with bradycardia to the ___, and was 
concerning for 2:1 conduction vs complete heart block. No 
documented episodes of hypotension.  
 On review of systems, she denies palpitations or prior syncope 
or falls. She also denies orthopnea or PND. She does feel that 
she may have had some "fevers" lately (feeling hot) but has not 
checked her temperature. The rest of her review of systems is 
negative.  
 In the ED initial vitals were: 97.1, 32, BP 211/49, RR 18, 99% 
RA.  
 -EKG: 2:1 conduction of P waves with regularly irregular RR 
interval on rhythm strip, with ventricular rate ___, sinus rate 
___. No TWI or ST elevations.  
 -Labs/studies notable for: wbc 8.9, H/H ___, plt 213. Na 
135, K 4, Cl 101, Bicarb 23, BUN 21, Cr 0.7. Lactate 1.5.  
 -EP consulted and performed carotid massage. Per EP, likely 
infranodal 2:1 AV block, worse/same with exercise, improves with 
parasympathetic maneuvers.  
 - Given hydralazine 5mg IV once for elevated systolic BP.  
 Vitals on transfer: 98.0 42 181/56 12 98% RA  
 On the floor the patient is still complaining of dizziness. 
Otherwise she has no complaints.  
 REVIEW OF SYSTEMS: On review of systems, denies any prior 
history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. Denies 
recent fevers, chills or rigors. Denies exertional buttock or 
calf pain. All of the other review of systems were negative.  
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 - Hypertension  
 - Hyperlipidemia  
 - Osteoporosis  
 - distal left fibular fracture,  
 - osteoporosis,  
 - ___'s tenosynovitis  
 - Benign right lateral tongue lesion excision
 
Social History:
___
Family History:
 FAMILY HISTORY:  
 - No arrhythmias, SIDS or SUDS  
 - Does have CAD in 1st degree relatives
 
Physical ___:
ADMISSION PHYSICAL EXAM 
VS: 98.3 ___ 16 98%RA  
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with no elevated JVP.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM 
Vitals: T= 98.7 HR=63 BP= 104/49 RR= 16 SPO2= 95RA
I/O= Not recorded
Weight: Not recorded 
Telemetry:  A/V paced. 

GENERAL: WDWN. NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple. No JVD.
CHEST: L pectoral implant site with dressing in place, clean, 
dry
and no active bleeding. No hematoma or fluctuance
CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.
LUNGS: CTAB, bibasilar crackles, no wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness. +BS
EXTREMITIES: No c/c/e. R knee with mild medial joint swelling, 
___ to palpation, no overlying warmth or erythema. 
SKIN: No rash noted
PULSES: 2+ b/l upper and lower

 
Pertinent Results:
ADMISSION LABS
___ 02:30PM   ___ 
___
___ 02:30PM   ___ 
___ IM ___ 
___
___ 02:30PM   PLT ___
___ 02:30PM   ___
___ 02:30PM   ___
___ 02:30PM   cTropnT-<0.01
___ 02:30PM   CK(CPK)-58
___ 02:30PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 02:40PM   ___

DISCHARGE LABS
___ 04:32AM BLOOD ___ 
___ Plt ___
___ 04:32AM BLOOD ___ 
___
___ 04:32AM BLOOD Plt ___
___ 04:32AM BLOOD ___

STUDIES 

CXR:  
Again seen is a ___ pacemaker through a left 
subclavian approach, with leads terminating in the right atrium 
and right ventricle. There is no pneumothorax, pleural effusion, 
or focal consolidation. There is mild cardiomegaly. There is no 
vascular congestion. IMPRESSION: ___ dual ___ 
pacemaker with leads terminating in the right atrium and right 
ventricle, no evidence of complication. 

Electro Physiology Pacemaker ___
Successful placement of dual ___ left sided ___ 
Pacemaker 

Interrogation ___: 
Device Brand: ___
Model: Assurity ___
___: ___

Presenting rhythm: AV sequential pacing at 60 bpm
Intrinsic Rhythm: sinus with occasional 2:1 AV conduction
Programmed Mode: 
DDD ___ bpm
Sensed/Paced AV Delay 200/200 ms
___: 2.98 V, estimated longevity ___ years
RA lead
  Intrinsic amplitude: 2.9 mV
  Pacing impedance: 460 ohms
  Pacing threshold: 0.25V @ 0.5 ms
  % Pacing: 79%
RV lead
  Intrinsic amplitude: >12 mV
  Pacing impedance: 600 ohms
  Pacing threshold: 0.5V @ 0.5 ms
  %pacing: >99%
Diagnostic information: High rate, Mode switch:
- none
Programming changes (details):
- none

 
Brief Hospital Course:
___ year old woman with ___ HTN, HLD, osteoarthritis, presented 
to the ED with shortness of breath, noted to be bradycardic. 
Found to have infranodal AV block.  

# Bradycardia; 2:___lock: Patient presetned to the 
ED from her PCPs officer with EKG concerning for 2:1 AV block, 
bradycardia, and presyncope. Patient evaluated by EP in the ED, 
and was noted to have improvement of AV block to 1:1 with 
carotid massage. There was no improvment with upper extremity 
arm movements. These findings were consistent with infranodal AV 
block. She underwent left sided dual ___ 
placement with EP on ___. She tolerated the procedure well. 
She was started on 3 days antibiotics, Vancomycin x2 days with 1 
day of cephlex on discharge to complete a 3 day course. The 
etiology of her conduction disorder was unclear as she had been 
on a stable dose of metoprolol. She was ruled out for ischemia 
with no ischemic EKG changes, no chest pain, and negative 
troponins. She did endorses some fevers (unmeasured) at home but 
was afebrile during her admission. Lyme was pending at the time 
of discharge and negative at the time of this discharge summary. 
Her device was interrogated by EP the morning of discharge with 
settings listed under results section. She will follow up with 
EP in 1 week after discharge for device check. 
  
# Hypertension: Patient presented to the ED with SBPs as high as 
225. Her only home blood pressure medication was metoprolol. 
This was held in the setting of bradycardia and she was placed 
on q6hrs hydralazine. Her HTN urgency/emergency was thought 
likely to be a compensatory response to her bradycardia to the 
___ on admission. Post pacemaker placment, her pressures 
normalized to 100s/50s. She was started on 5mg lisinopril and 
2.5mg amlodipine, with discontinuation of home metoprolol.  

# Shortness of breath/chest pressure: These symptoms resolved 
after admission. They were thought likely related to 
bradycardia. She did not have any evidence of volume overload on 
exam. She did not have any chest pain, EKG did not show ischemic 
changes, and her troponins were negative.  

Chronic Issues

# Osteoarthritis: Continued on chronic tramadol and lidocaine 
cream 

# Allergies: Continued on home cetirizine and Flonase  

*** Transitional Issues ***

Cardiology- Dr. ___
- ___ consideration of outpatient ischemic evaluation 
- Recommend f/u BP with titration of lisinopril/amlodipine as 
needed

EP
- Device check in 1 week 
- Will complete 3 day ppx course of antibiotics on ___

PCP
- ___ 10 ordered in 1 week after discharge with results faxed 
to ___. to f/u on K and Cr given initiation of 
lisinopril while inpatient. 
- Recommend f/u BP with titration of lisinopril/amlodipine as 
needed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine 5% Ointment 1 Appl TP ONCE 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Acetaminophen w/Codeine 1 TAB PO Q4H:PRN pain 
5. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
6. Ibuprofen 800 mg PO Q8H:PRN pain 
7. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1. Cetirizine 10 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
4. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Acetaminophen w/Codeine 1 TAB PO Q4H:PRN pain 
6. Ibuprofen 800 mg PO Q8H:PRN pain 
7. Lidocaine 5% Ointment 1 Appl TP ONCE 
8. Outpatient Lab Work
Dx: Hypertension, ___: 401 

Please collect Chem 10 by ___ and fax results to the 
office of Dr. ___. 

Address:___, ___
___

9. Cephalexin 500 mg PO Q8H Duration: 3 Doses 
RX *cephalexin 500 mg 1 tablet(s) by mouth three times a day 
Disp #*6 Tablet Refills:*0
10. Amlodipine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Bradycardia with 2:___lock 

Secondary Diagnosis 
Hypertension 
Osteoarthritis 
Seasonal Allergies 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

___ was a pleasure taking care of you during your hospitalization 
at ___. Briefly, you were hospitalized with shortness of 
breath and a very slow heart rate. You had a pacemaker placed to 
keep your heart rate from going too slowly. You tolerated this 
procedure well and will follow up with the electrophysiology 
team in 1 week for a device check. You will take antibiotics for 
2 more days to prevent any infection at the site of your 
pacemaker. You were started on new medications, lisinopril and 
amlodipine, for blood pressure control. 

We wish you the best, 
Your ___ Treatment Team 
 
Followup Instructions:
___